### PR TITLE
feat: add fast circuit for unsigned multiplication overflow detection `fastUmulOverflow_eq` and surrounding definitions

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR implements the fast circuit for overflow detection in unsigned multiplication used by Bitwuzla and proposed in: https://ieeexplore.ieee.org/stamp/stamp.jsp?tp=&arnumber=987767

The theorem is based on three definitions: 
* `uppcRec`: the unsigned parallel prefix circuit for the bits until a certain `i`
* `aandRec`: the conjunction between the parallel prefix circuit at of the first operand until a certain `i` and the `i`-th bit in the second operand
* `resRec`: the preliminary overflow flag computed with these two definitions
To establish the correspondence between these definitiions and their meaning in `Nat`, we rely on `clz` and `clzAuxRec` definitions. Therefore, this PR contains the `clz`- and `clzAuxRec`-related infrastructure that was necessary to get the proofs through.

An additional change this PR contains is the moving of `### Count leading zeros` section in `BitVec.Lemmas` downwards. In fact, some of the proofs I wrote required introducing `Bitvec.toNat_lt_iff` and `BitVec.le_toNat_iff` which I believe should live in the `Inequalities` section. Therefore, to put these in the appropriate section, I decided to move the whole `clz` section downwards (while it's small and relatively self contained. Specifically, the theorems I moved are: `clzAuxRec_zero`, `clzAuxRec_succ`, `clzAuxRec_eq_clzAuxRec_of_le`, `clzAuxRec_eq_clzAuxRec_of_getLsbD_false`.
 
The fast circuit is not yet the default one in the bitblaster, as it's performance is not yet competitive due to some missing rewrites that bitwuzla supports but are not in Lean yet. 
 
co-authored-by: @bollu

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a912652b7ddb9818bac123956ff8e2f8af4a3c83 --onto 72141b05fd9a3328c1e5d99211dc4da4495cbd42`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-30 11:02:28)
- 🟡 Mathlib branch [lean-pr-testing-7858](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7858) build against this PR was cancelled. (2025-06-19 15:39:39) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15760982575)
- ✅ Mathlib branch [lean-pr-testing-7858](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7858) has successfully built against this PR. (2025-06-19 16:25:00) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15761568716)
- ✅ Mathlib branch [lean-pr-testing-7858](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7858) has successfully built against this PR. (2025-06-23 08:30:34) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15818297232)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-07-07` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-07 10:28:52)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 77a0c2bf9b20b89c09355244ab553cf7a6c66511 --onto 5f818826d14a58b64d42fa8576003cd199adb50a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-08 12:17:46)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 287b173844d7b12482f4193556b8e16939a505b6 --onto 05e8c856fa471aecd212450f499bee1031f15f23`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-15 08:29:49)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ef1ca99bffd4f534a8c02dc32a657b957c01c495 --onto 1a31aa3d2b8738108ee9d682b611f8d0c4deead9`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-21 09:52:26)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ef1ca99bffd4f534a8c02dc32a657b957c01c495 --onto 21f5263f2f28e5fd7b6a99c40f0c11351f04aedb`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-22 10:02:06)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 6a3fc281adb278adcf87a230dc02c5120a08e952 --onto 797985e3197ad2cf805310911854565996e72c48`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-26 12:42:26)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1907,4 +1907,634 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+    omega
+  · simp only [hw0, reduceDIte, and_eq_true,
+      getLsbD_true_of_clz_of_ne_zero (x := y) (by omega) (by omega), getElem_of_getLsbD_eq_true,
+      uppcRec_true_iff, show w - 1 - (w - 1 - y.clz.toNat - 1) = y.clz.toNat + 1 by omega,
+      _root_.true_and]
+    have := Nat.pow_le_pow_of_le (a := 2) (n := y.clz.toNat + 1) (m := w - 1 - x.clz.toNat) (by omega) (by omega)
+    omega
+
+/--
+  complete fast overflow detecnion circuit for unsigned multiplication
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  complete fast overflow detection circuit for unsigned multiplication
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1907,4 +1907,634 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/- ### fast circuit for unsigned overflow detection -/
+/--
+  unsigned parallel prefix
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  unsigned parallel prefix. `x.uppcRec s = true` iff `x.toNat` is greater or equal than `2 ^ (w - 1 - (s - 1))`
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1944,7 +1944,7 @@ The remainder for `srem`, i.e. division with rounding to zero is negative
 iff `x` is negative and `y` does not divide `x`.
 
 We can eventually build fast circuits for the divisibility test `x.srem y = 0`.
--/ 
+-/
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
-/ 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -622,7 +622,7 @@ theorem setWidth_setWidth_succ_eq_setWidth_setWidth_add_twoPow (x : BitVec w) (i
         simp [hik', hik'']
         omega
   · ext k
-    simp only [and_twoPow, 
+    simp only [and_twoPow,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [and_twoPow, 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -336,7 +336,7 @@ theorem add_eq_or_of_and_eq_zero {w : Nat} (x y : BitVec w)
     (h : x &&& y = 0#w) : x + y = x ||| y := by
   rw [add_eq_adc, adc, iunfoldr_replace (fun _ => false) (x ||| y)]
   · rfl
-  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
+  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
```

**Comment by tobiasgrosser** [comment]
> some of the proofs I reote

Typo

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -2154,4 +2154,204 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/- ### fast circuit for unsigned overflow detection -/
+/--
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
/- ### fast circuit for unsigned overflow detection -/

/--
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -2154,4 +2154,204 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+  unsigned parallel prefix `x.uppcRec s = true` iff `x.toNat` is greater or equal than `2 ^ (w - 1 - (s - 1))`
+-/
+def uppcRec {w} (x : BitVec w) (s : Nat) (hs : s < w) : Bool :=
+  match s with
+  | 0 => x.msb
+  | i + 1 =>  x[w - 1 - i] || uppcRec x i (by omega) -- there is one redundant case here
+
+/-- The unsigned parallel prefix of `x` at `s` is `true` if and only if x interpreted
+  as a natural number is greater or equal than `2 ^ (w - 1 - (s - 1))` -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
/-- The unsigned parallel prefix of `x` at `s` is `true` if and only if x interpreted
  as a natural number is greater or equal than `2 ^ (w - 1 - (s - 1))`. -/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -2154,4 +2154,204 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/- ### fast circuit for unsigned overflow detection -/
+/--
+  unsigned parallel prefix `x.uppcRec s = true` iff `x.toNat` is greater or equal than `2 ^ (w - 1 - (s - 1))`
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Should this be a sentence starting with an uppercase letter and terminating with a `.`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -2154,4 +2154,204 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+-/
+def uppcRec {w} (x : BitVec w) (s : Nat) (hs : s < w) : Bool :=
+  match s with
+  | 0 => x.msb
+  | i + 1 =>  x[w - 1 - i] || uppcRec x i (by omega) -- there is one redundant case here
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: What does the comment `there is one redundant case here` mean?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -2154,4 +2154,204 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+/-- The unsigned parallel prefix of `x` at `s` is `true` if and only if x interpreted
+  as a natural number is greater or equal than `2 ^ (w - 1 - (s - 1))` -/
+@[simp]
+theorem uppcRec_true_iff (x : BitVec w) (s : Nat) (h : s < w) :
+    uppcRec x s h ↔ 2 ^ (w - 1 - (s - 1)) ≤ x.toNat := by
+  rcases w with _|w
+  · omega
+  · induction s
+    · case succ.zero =>
+      simp [uppcRec, msb_eq_true_iff_two_mul_ge, Nat.pow_add, Nat.mul_comm (2^ w) 2]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Non-terminal simp.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -2154,4 +2154,204 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+
+/--
+  conjunction for fast umulOverflow circuit
+-/
+def aandRec (x y : BitVec w) (s : Nat) (hs : s < w) (hslt : 0 < s) : Bool :=
+  if hs0 : s = 0 then (show False by omega).elim
+    else y[s] && uppcRec x s (by omega)
+
+/--
+  preliminary overflow flag for fast umulOverflow circuit
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: What does `preliminary` mean here?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -2154,4 +2154,204 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+  complete fast overflow detection circuit for unsigned multiplication
+-/
+theorem fastUmulOverflow (x y : BitVec w) (hw : 1 < w) :
+    umulOverflow x y ↔ (((zeroExtend (w + 1) x) * (zeroExtend (w + 1) y)).getLsbD w || resRec x y (w - 1) (by omega) (by omega) (by omega)) := by
+  rcases w with _|_|w
+  · simp; omega
+  · simp; omega
+  · constructor
+    · intro h
+      simp [umulOverflow] at h
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Non-terminal simp?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 13]
```diff
@@ -2154,4 +2154,204 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+          Nat.mod_eq_of_lt (a := x.toNat * y.toNat) (b := 2 ^ (w + 1 + 1 + 1)) (by omega), h', h,
+          forall_const] at hlt
+        simp [hlt]
+      · by_cases hsw : (setWidth (w + 1 + 1 + 1) x * setWidth (w + 1 + 1 + 1) y)[w + 1 + 1] = true
+        · simp [hsw]
+        · simp only [truncate_eq_setWidth, Nat.lt_add_one, getLsbD_eq_getElem, hsw,
+            Nat.add_one_sub_one, Bool.false_or]
+          have := Nat.mul_ne_zero_iff (n := x.toNat) (m := y.toNat)
+          simp only [ne_eq, show ¬x.toNat * y.toNat = 0 by omega, not_false_eq_true, true_iff] at this
+          simp [← ne_eq] at this
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Non-terminal simp

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -5835,6 +5813,359 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+theorem getLsbD_true_of_eq_clzAuxRec_of_ne_zero {x : BitVec w} (hx : ¬ x = 0#w) (hn : ∀ i, n < i → x.getLsbD i = false) :
+    x.getLsbD (w - 1 - (x.clzAuxRec n).toNat) = true := by
+  rcases w with _|w
+  · simp [of_length_zero] at hx
+  · have := Nat.lt_pow_self (a := 2) (n := w + 1)
+    induction n
+    · case zero =>
+      by_cases hx0 : x[0]
+      · simp only [Nat.add_one_sub_one, clzAuxRec_zero, Nat.zero_lt_succ, getLsbD_eq_getElem, hx0,
+        reduceIte, toNat_ofNat, Nat.mod_eq_of_lt (a := w) (b := 2 ^(w + 1)) (by omega), show w - w = 0 by omega]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
          reduceIte, toNat_ofNat, Nat.mod_eq_of_lt (a := w) (b := 2 ^(w + 1)) (by omega), show w - w = 0 by omega]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -5835,6 +5813,359 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+    2 ^ (w - 1 - (clz x).toNat) ≤ x.toNat := by
+  by_cases hc0 : x.clz.toNat  = 0
+  · simp [hc0, ← clz_eq_zero_iff (x := x) hw]
+  · have hclz := getLsbD_true_of_clz_of_ne_zero (x := x) hw hx
+    rw [getLsbD_eq_getElem (by omega)] at hclz
+    have hge := Nat.ge_two_pow_of_testBit hclz
+    push_cast at hge
+    exact hge
+
+theorem lt_toNat_of_clz {x : BitVec w} (hx : x ≠ 0#w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Do you need `h` here? Also, can you double-check the theorem name?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -5835,6 +5813,359 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+  constructor
+  · intro h
+    simp only [natCast_eq_ofNat, BitVec.ne_of_lt (x := x.clz) (y := BitVec.ofNat w w) h,
+      false_iff] at heq
+    simp only [ne_eq, heq, not_false_eq_true]
+  · intro h
+    simp only [natCast_eq_ofNat, h, iff_false] at heq
+    apply BitVec.lt_of_le_ne (x := x.clz) (y := BitVec.ofNat w w) hle heq
+
+theorem getLsbD_false_of_clzAuxRec {x : BitVec w} (h : ∀ i, n < i → x.getLsbD i = false):
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem getLsbD_false_of_clzAuxRec {x : BitVec w} (h : ∀ i, n < i → x.getLsbD i = false) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -5835,6 +5813,359 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+    rw [clzAuxRec_eq_iff_of_getLsbD_false (x := x) (n := w) (w := w + 1) (by intros i hi; simp [show w + 1 ≤ i by omega])]
+    constructor
+    · intro h i
+      by_cases i ≤ w
+      · apply h; omega
+      · simp [show w + 1 ≤ i by omega]
+    · intro h j hj
+      apply h
+
+theorem clzAuxRec_eq_zero_iff {x : BitVec w} (h : ∀ i, n < i → x.getLsbD i = false) (hw : 0 < w):
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem clzAuxRec_eq_zero_iff {x : BitVec w} (h : ∀ i, n < i → x.getLsbD i = false) (hw : 0 < w) :
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 8 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: It seems this is not a convention in the file, but maybe still double-check.

**Review by tobiasgrosser — APPROVED** [review]

File: src/Init/Data/BitVec/Bitblast.lean (hunk 6 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 8 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 9 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: old comment I forgot to delete, fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 10 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 11 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: the overflow is computed by or-ing the preliminary overflow flag with another bit, this is the name they use in the paper

File: src/Init/Data/BitVec/Bitblast.lean (hunk 12 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 13 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 17 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 16 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 14 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 15 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: changed the name to toNat_lt_of_clz

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: will now try to get rid of h

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: it worked! no more `h`

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -2154,4 +2154,208 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+            · exists k, h'', by omega
+            · have : k = s + 1 + 1 + 1 := by omega
+              simp_all
+
+theorem resRec_of_clz_le {x y : BitVec w} (hw : 1 < w) (hx : x ≠ 0#w) (hy : y ≠ 0#w):
+    (clz x).toNat + (clz y).toNat ≤ w - 2 → resRec x y (w - 1) (by omega) (by omega) (by omega) := by
+  intro h
+  rw [resRec_true_iff]
+  exists (w - 1 - y.clz.toNat), by omega, by omega
+  unfold aandRec
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]: This is generally 'evil': We should not need to unfold a definition. Instead, there should be a theorem about `aandRec` that explains what `aandRec` does at this step.

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Can we refactor this to not ned an `unfold aandRec`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -2154,4 +2154,208 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+          obtain ⟨k, hk, hk', hk''⟩ := h
+          by_cases h' : x.aandRec y (s + 1 + 1 + 1) (by omega) (by omega) = true
+          · simp [h']
+          · simp only [h', false_eq_true, _root_.or_false]
+            by_cases h'' : k ≤ s + 1 + 1
+            · exists k, h'', by omega
+            · have : k = s + 1 + 1 + 1 := by omega
+              simp_all
+
+theorem resRec_of_clz_le {x y : BitVec w} (hw : 1 < w) (hx : x ≠ 0#w) (hy : y ≠ 0#w):
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:2305]: A comment explaining intuition for this, please. The paper has a nice description of this, so we can reuse some of their wording if we want :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -5835,6 +5813,359 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+    2 ^ (w - 1 - (clz x).toNat) ≤ x.toNat := by
+  by_cases hc0 : x.clz.toNat  = 0
+  · simp [hc0, ← clz_eq_zero_iff (x := x) hw]
+  · have hclz := getLsbD_true_of_clz_of_ne_zero (x := x) hw hx
+    rw [getLsbD_eq_getElem (by omega)] at hclz
+    have hge := Nat.ge_two_pow_of_testBit hclz
+    push_cast at hge
+    exact hge
+
+theorem toNat_lt_of_clz {x : BitVec w} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
/-- A bitvector is upper bounded by the number of leading zeroes. -/
theorem toNat_lt_of_clz {x : BitVec w} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 21]
```diff
@@ -5835,6 +5813,359 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+          exact hn
+
+theorem getLsbD_true_of_clz_of_ne_zero {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
+    x.getLsbD (w - 1 - (clz x).toNat) = true := by
+  unfold clz
+  apply getLsbD_true_of_eq_clzAuxRec_of_ne_zero (x := x) (n := w - 1) (by omega)
+  intro i hi
+  simp [show w ≤ i by omega]
+
+theorem toNat_le_of_clz {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
/-- A nonzero bitvector is lower-bounded by its leading zeroes. -/
theorem toNat_le_of_clz {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 22]
```diff
@@ -5835,6 +5813,359 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+theorem clz_eq_zero_iff {x : BitVec w} (hw : 0 < w) :
+    (clz x).toNat = 0 ↔ 2 ^ (w - 1) ≤ x.toNat := by
+  simp only [clz, clzAuxRec_eq_zero_iff (x := x) (n := w - 1) (by intro i hi; simp [show w ≤ i by omega]) hw]
+  by_cases hxw : x[w - 1]
+  · simp [hxw, two_pow_le_toNat_of_getElem_eq_true (x := x) (i := w - 1) (by omega) hxw]
+  · simp only [hxw, Bool.false_eq_true, false_iff, Nat.not_le]
+    simp only [← getLsbD_eq_getElem, ← msb_eq_getLsbD_last, Bool.not_eq_true] at hxw
+    exact toNat_lt_of_msb_false hxw
+
+theorem clz_lt_iff_ne_zero {x : BitVec w} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:6068]:
```suggestion
/-- The number of leading zeroes is strictly less than the bitwidth iff the bitvector is nonzero. -/
theorem clz_lt_iff_ne_zero {x : BitVec w} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 23]
```diff
@@ -5835,6 +5813,359 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+
+theorem clz_le {x : BitVec w} :
+    clz x ≤ w := by
+  unfold clz
+  rcases w with _|w
+  · simp [of_length_zero]
+  · exact clzAuxRec_le (n := w)
+
+@[simp]
+theorem clz_eq_iff {x : BitVec w} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem clz_eq_iff_eq_zero {x : BitVec w} :
```

For me, `clz_eq_iff` makes me think of the theorem that says that `clz = k` iff `<complex condition>`, so it helps to use a slightly longer name.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 18 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 19 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:2305]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 20 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 21 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 22 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6068]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 23 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

**Comment by luisacicolini** [comment]
thanks @tobiasgrosser @bollu for your reviews. I incorporated a note following @bollu's advice to explain in detail the construction of the fast circuit and the definitions involved.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 5 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  · simp only [adcb, atLeastTwo, Bool.and_false, Bool.or_false, bne_false, 
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 4 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [and_twoPow, 
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 3 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
-/ 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 24]
```diff
@@ -2154,4 +2154,239 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/- ### fast circuit for unsigned overflow detection -/
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
/- ### f
Fast Circuit For Unsigned Overflow Detection -/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 25]
```diff
@@ -2154,4 +2154,240 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/- ### f
+Fast Circuit For Unsigned Overflow Detection -/
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
/- ### Fast Circuit For Unsigned Overflow Detection -/
```

File: tests/lean/run/bv_decide_rewriter.lean [hunk 26]
```diff
@@ -85,12 +85,12 @@ example (x y : BitVec 16) : BitVec.uaddOverflow x y = (x.setWidth (17) + y.setWi
 example (x y : BitVec 16) : BitVec.saddOverflow x y = (x.msb = y.msb ∧ ¬(x + y).msb = x.msb) := by bv_normalize
 example (x y : BitVec w) : BitVec.uaddOverflow x y = (x.setWidth (w + 1) + y.setWidth (w + 1)).msb := by bv_normalize
 example (x y : BitVec w) : BitVec.saddOverflow x y = (x.msb = y.msb ∧ ¬(x + y).msb = x.msb) := by bv_normalize
-example (x y : BitVec 16) : BitVec.umulOverflow x y = (BitVec.twoPow 32 16 ≤ x.zeroExtend (32) * y.zeroExtend (32)) := by bv_normalize
+example (x y : BitVec 16) : BitVec.umulOverflow x y = (BitVec.twoPow 32 16 ≤ x.zeroExtend (32) * y.zeroExtend (32)) := by bv_decide
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_decide_rewriter.lean]: Is this intentional? I would assume this does not change.

File: tests/lean/run/bv_decide_rewriter.lean [hunk 27]
```diff
@@ -85,12 +85,12 @@ example (x y : BitVec 16) : BitVec.uaddOverflow x y = (x.setWidth (17) + y.setWi
...
 example (x y : BitVec 16) : BitVec.smulOverflow x y =
     ((BitVec.signExtend (16 * 2) (BitVec.intMax 16)).slt (BitVec.signExtend (16 * 2) x * BitVec.signExtend (16 * 2) y) ||
     (BitVec.signExtend (16 * 2) x * BitVec.signExtend (16 * 2) y).slt (BitVec.signExtend (16 * 2) (BitVec.intMin 16))) :=
   by bv_normalize
-example (x y : BitVec w) : BitVec.umulOverflow x y = (0 < w && BitVec.twoPow (w * 2) w ≤ x.zeroExtend (w * 2) * y.zeroExtend (w * 2)) := by bv_normalize
+example (x y : BitVec 16) : BitVec.umulOverflow x y = (BitVec.twoPow (32) 16 ≤ x.zeroExtend (32) * y.zeroExtend (32)) := by bv_decide
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_decide_rewriter.lean]: Is this intentional? I would assume this does not change.

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 28]
```diff
@@ -353,11 +353,14 @@ attribute [bv_normalize] BitVec.umod_eq_and
 attribute [bv_normalize] BitVec.saddOverflow_eq
 attribute [bv_normalize] BitVec.uaddOverflow_eq
 attribute [bv_normalize] BitVec.negOverflow_eq
-attribute [bv_normalize] BitVec.umulOverflow_eq
 attribute [bv_normalize] BitVec.smulOverflow_eq
+attribute [bv_normalize] BitVec.umulOverflow_eq
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean]: This change seems unrelated.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 29]
```diff
@@ -5848,6 +5826,362 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+  · simp [hc0, ← clz_eq_zero_iff (x := x) hw]
+  · have hclz := getLsbD_true_of_clz_of_ne_zero (x := x) hw hx
+    rw [getLsbD_eq_getElem (by omega)] at hclz
+    have hge := Nat.ge_two_pow_of_testBit hclz
+    push_cast at hge
+    exact hge
+
+/-- A bitvector is upper bounded by the number of leading zeroes. -/
+theorem toNat_lt_of_clz {x : BitVec w} :
+    x.toNat < 2 ^ (w - (clz x).toNat) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:6164]: Is `of` in the theorem named not restricted to hypotheses? I would have expected `toNat_lt_two_pow_sub_clz` or sth similar.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 30]
```diff
@@ -5848,6 +5826,362 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+theorem getLsbD_true_of_clz_of_ne_zero {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
+    x.getLsbD (w - 1 - (clz x).toNat) = true := by
+  unfold clz
+  apply getLsbD_true_of_eq_clzAuxRec_of_ne_zero (x := x) (n := w - 1) (by omega)
+  intro i hi
+  simp [show w ≤ i by omega]
+
+/-- A nonzero bitvector is lower-bounded by its leading zeroes. -/
+theorem toNat_le_of_clz {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
+    2 ^ (w - 1 - (clz x).toNat) ≤ x.toNat := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:6153]: Is of in the theorem named not restricted to hypotheses?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 31]
```diff
@@ -5848,6 +5826,362 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+        simp only [Nat.add_one_sub_one] at ihn
+        apply ihn
+        intro j hj
+        by_cases hjn : j = n + 1
+        · simp [hjn, hxn]
+        · specialize hn j (by omega)
+          exact hn
+
+theorem getLsbD_true_of_clz_of_ne_zero {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
+    x.getLsbD (w - 1 - (clz x).toNat) = true := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:6145]: Is `of` in the theorem named not restricted to hypotheses?

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean (hunk 28 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Normalize/BitVec.lean]: addressed

File: tests/lean/run/bv_decide_rewriter.lean (hunk 26 above)
Comment (luisacicolini) [reply tests/lean/run/bv_decide_rewriter.lean]: addressed, put it back to `bv_normalize`

File: tests/lean/run/bv_decide_rewriter.lean (hunk 27 above)
Comment (luisacicolini) [reply tests/lean/run/bv_decide_rewriter.lean]: addressed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 31 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6145]: addressed, changed to `getLsbD_true_clz_of_ne_zero`

File: src/Init/Data/BitVec/Lemmas.lean (hunk 30 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6153]: changed to `two_pow_sub_clz_le_toNat_of_ne_zero`

File: src/Init/Data/BitVec/Lemmas.lean (hunk 29 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6164]: changed to `toNat_lt_two_pow_sub_clz`

File: src/Init/Data/BitVec/Bitblast.lean [hunk 32]
```diff
@@ -2152,4 +2152,239 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+  if hs0 : s = 0 then (show False by omega).elim
+    else y[s] && uppcRec x s (by omega)
+
+/--
+  Preliminary overflow flag for fast umulOverflow circuit as introduced in
+  `Efficient integer multiplication overflow detection circuits` (https://ieeexplore.ieee.org/abstract/document/987767).
+-/
+def resRec (x y : BitVec w) (s : Nat) (hs : s < w) (hslt : 0 < s) (hw : 1 < w) : Bool :=
+  match hs0 : s with
+  | 0 => (show False by omega).elim
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  | 0 => by omega
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 33]
```diff
@@ -2152,4 +2152,239 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+    · case succ s =>
+      induction s
+      · case zero =>
+        unfold resRec
+        simp only [Nat.zero_add, Nat.reduceAdd, or_eq_true]
+        constructor
+        · intro h
+          rcases h with h|h
+          · exists 1, by omega, by omega
+          · exists 2, by omega, by omega
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:2273]: This looks a bit funny, but my cache of the proof idea is long gone :) I trust that this is the only way the proof can proceed, and there isn't an argument that doesn't need us to explicitly name constants.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 34]
```diff
@@ -2152,4 +2152,239 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+    omega
+  · simp only [hw0, reduceDIte, and_eq_true,
+      getLsbD_true_clz_of_ne_zero (x := y) (by omega) (by omega), getElem_of_getLsbD_eq_true,
+      uppcRec_true_iff, show w - 1 - (w - 1 - y.clz.toNat - 1) = y.clz.toNat + 1 by omega,
+      _root_.true_and]
+    exact Nat.le_trans (Nat.pow_le_pow_of_le (a := 2) (n := y.clz.toNat + 1) (m := w - 1 - x.clz.toNat) (by omega) (by omega))
+          (BitVec.two_pow_sub_clz_le_toNat_of_ne_zero (x := x) (by omega) (by omega))
+
+/--
+  Complete fast overflow detection circuit for unsigned multiplication
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  Complete fast overflow detection circuit for unsigned multiplication.
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 35]
```diff
@@ -2152,4 +2152,239 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+-/
+theorem fastUmulOverflow (x y : BitVec w) :
+    umulOverflow x y = if hw : w ≤ 1 then false
+      else (setWidth (w + 1) x * setWidth (w + 1) y)[w] || x.resRec y (w - 1) (by omega) (by omega) (by omega):= by
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      else (setWidth (w + 1) x * setWidth (w + 1) y)[w] || x.resRec y (w - 1) (by omega) (by omega) (by omega) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 36]
```diff
@@ -508,6 +508,18 @@ theorem getElem_ofBool {b : Bool} {h : i < 1}: (ofBool b)[i] = b := by
 @[simp] theorem zero_eq_one_iff (w : Nat) : (0#w = 1#w) ↔ (w = 0) := by
   rw [← one_eq_zero_iff, eq_comm]
 
+/-- A bitvector is equal to 0#w if and only if all bits are `false` -/
+theorem zero_iff_forall {x: BitVec w} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem zero_iff_eq_false {x: BitVec w} :
```

I would expect the theorem to be calle something like this.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 37]
```diff
@@ -5766,40 +5778,6 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
-    by_cases hxn : x.getLsbD (n + k + 1)
-    · have : ¬ ∀ (i : Nat), n < i → x.getLsbD i = false := by
-        simp only [Classical.not_forall, Bool.not_eq_false]
-        exists n + k + 1
-        simp [show n < n + k + 1 by omega, hxn]
-      contradiction
-    · simp only [hxn, Bool.false_eq_true, ↓reduceIte]
-      exact ihk
-
-
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5803]: Note: these have been moved lower.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 38]
```diff
@@ -5848,6 +5826,362 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
 theorem sle_eq_ule_of_msb_eq {x y : BitVec w} (h : x.msb = y.msb) : x.sle y = x.ule y := by
   simp [BitVec.sle_eq_ule, h]
 
+/-- A bitvector interpreted as a natural number is greater than or equal to `2 ^ i` if and only if
+  there exists at least one bit with `true` value at position `i` or higher. -/
+theorem le_toNat_iff {x : BitVec w} (hi : i < w ) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem le_toNat_iff_getLsbD_eq_true {x : BitVec w} (hi : i < w ) :
```

Or something, because there are other 'iff's I can think of.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 39]
```diff
@@ -5848,6 +5826,362 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+      obtain ⟨k, hk⟩ := h
+      by_cases hk' : i + k < w + 1
+      · have := Nat.ge_two_pow_of_testBit hk
+        have := Nat.pow_le_pow_of_le (a := 2) (n := i) (m := i + k) (by omega) (by omega)
+        omega
+      · simp [show w + 1 ≤ i + k by omega] at hk
+
+/-- A bitvector interpreted as a natural number is strictly smaller than `2 ^ i` if and only if
+  all bits at position `i` or higher are false. -/
+theorem toNat_lt_iff {x : BitVec w} (i : Nat) (hi : i < w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem toNat_lt_iff_getLsbD_eq_false {x : BitVec w} (i : Nat) (hi : i < w) :
```

same comment as above. There's a bunch of things that are 'iff' with being less than `2^i`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 40]
```diff
@@ -5848,6 +5826,362 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
+      omega
+    · simp [show w ≤ i + k by omega] at hk
+  · intro h
+    apply Classical.byContradiction
+    intro hcontra
+    simp [BitVec.le_toNat_iff (x := x) (i := i) hi, h] at hcontra
+
+/-- If a bitvector interpreted as a natural number is strictly smaller than `2 ^ (k + 1)` and greater than or
+  equal to 2 ^ k, then the bit at position `k` must be `true` -/
+theorem getElem_of_lt_of_le {x : BitVec w} (hk' : k < w) (hlt: x.toNat < 2 ^ (k + 1)) (hle : 2 ^ k ≤ x.toNat) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem getElem_eq_true_of_lt_of_le {x : BitVec w} (hk' : k < w) (hlt: x.toNat < 2 ^ (k + 1)) (hle : 2 ^ k ≤ x.toNat) :
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 37 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:5803]: yes, the move is specified in the PR message already.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 32 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: addressed.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 33 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:2273]: as usual, it's the only way _I could find_

File: src/Init/Data/BitVec/Bitblast.lean (hunk 34 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 35 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 36 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: renamed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 38 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: renamed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 39 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: renamed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 40 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: renamed

File: src/Init/Data/BitVec/Bitblast.lean [hunk 41]
```diff
@@ -2152,4 +2152,239 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+            · rw [getLsbD_eq_getElem (by omega)] at hk
+              simp [hbit, show k = 0 by omega] at hk
+          · simp_all
+
+/--
+  Conjunction for fast umulOverflow circuit
+-/
+def aandRec (x y : BitVec w) (s : Nat) (hs : s < w) (hslt : 0 < s) : Bool :=
+  if hs0 : s = 0 then (show False by omega).elim
+    else y[s] && uppcRec x s (by omega)
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: Why is this not just
```lean
def aandRec (x y : BitVec w) (s : Nat) (hs : s < w) : Bool :=
  y[s] && uppcRec x s (by omega)
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 42]
```diff
@@ -2152,4 +2152,239 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+  `Efficient integer multiplication overflow detection circuits` (https://ieeexplore.ieee.org/abstract/document/987767).
+-/
+def resRec (x y : BitVec w) (s : Nat) (hs : s < w) (hslt : 0 < s) (hw : 1 < w) : Bool :=
+  match hs0 : s with
+  | 0 => by omega
+  | s' + 1 =>
+    match hs' : s' with
+    | 0 => aandRec x y 1 (by omega) (by omega)
+    | s'' + 1 =>
+      (resRec x y s' (by omega) (by omega) (by omega)) || (aandRec x y s (by omega) (by omega))
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: The `hw` assumption is also useless:
```lean
def resRec (x y : BitVec w) (s : Nat) (hs : s < w) (hslt : 0 < s) : Bool :=
  match hs0 : s with
  | 0 => by omega
  | s' + 1 =>
    match hs' : s' with
    | 0 => aandRec x y 1 (by omega)
    | s'' + 1 =>
      (resRec x y s' (by omega) (by omega)) || (aandRec x y s (by omega))
```

In both cases you can likely drop some assumptions of the below theorems

File: src/Init/Data/BitVec/Bitblast.lean [hunk 43]
```diff
@@ -2152,4 +2152,239 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+          · exists s + 1 + 1 + 1, by omega, by omega
+        · intro h
+          obtain ⟨k, hk, hk', hk''⟩ := h
+          by_cases h' : x.aandRec y (s + 1 + 1 + 1) (by omega) (by omega) = true
+          · simp [h']
+          · simp only [h', false_eq_true, _root_.or_false]
+            by_cases h'' : k ≤ s + 1 + 1
+            · exists k, h'', by omega
+            · have : k = s + 1 + 1 + 1 := by omega
+              simp_all
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: I golfed this proof with `grind` for fun (I'm checking whether it's okay to use grind here with Kim):
```

theorem resRec_true_iff (x y : BitVec w) (s : Nat) (hs : s < w) (hs' : 0 < s) (hw : 1 < w) :
    resRec x y s hs hs' = true ↔ ∃ (k : Nat), ∃ (h : k ≤ s), ∃ (hk' : 0 < k), aandRec x y k (by omega) := by
  unfold resRec
  rcases s with _|s
  · omega
  · rcases s
    · case zero =>
      grind
    · case succ s =>
      induction s
      · case zero =>
        unfold resRec
        simp only [Nat.zero_add, Nat.reduceAdd, Bool.or_eq_true]
        constructor
        · grind
        · intro h
          obtain ⟨k, hk, hk', hk''⟩ := h
          have h : k = 1 ∨ k = 2 := by omega
          grind
      · case succ s ihs =>
        unfold resRec
        grind
```

**Review by hargoniX — COMMENTED** [review]
The PR looks generally fine to me modulo the useless additional assumptions. If we get permission to use `grind` here I'm somewhat hopeful we can also cut down a lot on the proof size here, I'll report back once Kim tells me.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 41 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: indeed, fixed.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 42 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done
